US05654299
b. 1-Benzyloxycarbonyl-4-hydroxy-4-(2-methoxyphenyl)piperidine
A solution of anisole (2.19 g) in tetrahydrofuran (50 mL) was cooled to -78° C. and treated with tert-butyl lithium (12 mL of a 1.7M solution in pentane). The resulting reaction mixture was warmed to -15° C. and stirred for 45 minutes. The reaction mixture was cooled back to -78° C. and treated with a solution of 1-benzyloxycarbonyl-4-piperidone (4.67 g) in tetrahydrofuran (5 mL). The reaction mixture was warmed to -15° C. and stirred for 1 hour before it was allowed to reach ambient temperature and stirred for 72 hours. The reaction mixture was diluted with water, and extracted several times with ethyl acetate. The combined organic layers were dried and evaporated to afford the crude product. Chromatography, with hexane:ethyl acetate (2:1) as the eluent, gave a mixture of the alcohol and starting material (2.98 g); NMR (CDCl3): 1.95-2.04 (m, 4), 2.9 (broad, 2), 3.90 (s, 3), 5.15 (s, 2), 6.93-6.99 (m, 2), 7.21-7.36 (m, 7); MS: m/z=342(M+1). This material was used in the next step without further purification.

reactant | anisole | 2.19 g | C1(=CC=CC=C1)OC | C7H8O
reactant | tert-butyl lithium | C(C)(C)(C)[Li]
reactant | 1-benzyloxycarbonyl-4-piperidone | 4.67 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)=O | C13H15NO3
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | pentane | CCCCC | C5H12
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1-Benzyloxycarbonyl-4-hydroxy-4-(2-methoxyphenyl)piperidine | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)(C1=C(C=CC=C1)OC)O | C20H23NO4
